US04289787
Following the procedure set forth in Example 31, N-n-pentyl-N-n-heptyl-4-phenylbutylamine prepared according to Example 30 was reacted with methyl bromide to provide N-n-heptyl-N-methyl-N-n-pentyl-4-phenylbutylammonium bromide. M.P. 55°-57° C.

reactant | N-n-pentyl-N-n-heptyl-4-phenylbutylamine | C(CCCC)N(CCCCCCC)CCCCC1=CC=CC=C1 | C22H39N
reactant | methyl bromide | CBr | CH3Br
product | N-n-heptyl-N-methyl-N-n-pentyl-4-phenylbutylammonium bromide | [Br-].C(CCCCCC)[N+](CCCCC)(C)CCCCC1=CC=CC=C1 | InChI=1S/C23H42N.BrH/c1-4-6-8-9-15-21-24(3,20-14-7-5-2)22-16-13-19-23-17-11-10-12-18-23;/h10-12,17-18H,4-9,13-16,19-22H2,1-3H3;1H/q+1;/p-1
